US04861769
1-[(7β-Amino-4-carboxy-3-cephem-3-yl)methyl]pyridinium chloride hydrochloride (960 mg) was dissolved in a solution of N-trimethylsilylacetamide (1.5 g) and bis(trimethylsilyl)acetamide (2.8 ml) in tetrahydrofuran (10 ml). To this solution was added the activated acid solution, which was prepared from 2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (500 mg) according to a similar manner to that described in Example 1, at -20° C. The mixture was stirred at -20° C. to -10° C. for 40 minutes. The mixture was poured into ethyl acetate (250 ml). The precipitate was collected and suspended in methanol (20 ml). To the suspension was added concentrated hydrochloric acid (0.62 ml) and the mixture was warmed at 30° to 35° C. for 2 hours. The mixture was poured into ice-water (50 ml), adjusted to pH 2.5 with saturated aqueous solution of sodium bicarbonate, and washed with ethyl acetate. The aqueous solution was subjected to column chromatography on a non-ionic adsorption resin "Diaion HP-20" (30 ml). After the column was washed with water (300 ml), 1% isopropyl alcohol (60 ml), and 3% isopropyl alcohol (60 ml) successively, the elution was carried out with 5% isopropyl alcohol (250 ml) and 10% isopropyl alcohol (150 ml) successively. The fractions containing the object compound were collected, combined, concentrated in vacuo to about 100 ml and lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate (syn isomer) (553 mg).

reactant | 1-[(7β-Amino-4-carboxy-3-cephem-3-yl)methyl]pyridinium chloride hydrochloride | 960 mg | Cl.[Cl-].N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)O)C1=O
reactant | 2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 500 mg | C1(CC1)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C9H9N3O4S
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | N-trimethylsilylacetamide | 1.5 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
solvent | bis(trimethylsilyl)acetamide | 2.8 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate | 553 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)=NOC1CC1 | C21H20N6O5S2
